US05583247
(B) N,N-Diethyl-2-(3,5-di-tert-butyl-4-oxocyclohexa-2,5-dienylidene)acetamide
4.80 g (0.015 Mol) of N,N-diethyl-2-(3,5-di-tert-butyl-4-hydroxy-phenyl)acetamide are dissolved in 60 ml of dichloromethane. To this solution a solution of 15 g (0.046 mol) of potassium hexacyanoferrate (IlI) and 6.0 g (0.11 mol) of potassium hydroxide in 120 ml of water is added, and the mixture is stirred one hour at room temperature under nitrogen. The organic layer is separated, washed with water and evaporated in vacuo. The solid residue is recrystallized from acetonitrile to give 3.6 g of the title compound as yellow needles, melting at 109°-110° C.

reactant | N,N-diethyl-2-(3,5-di-tert-butyl-4-hydroxy-phenyl)acetamide | 0.015 Mol, 4.80 g | C(C)N(C(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)CC | C20H33NO2
reactant | potassium hydroxide | 0.11 mol, 6.0 g | [OH-].[K+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | 120 ml | O | H2O
catalyst | potassium hexacyanoferrate | 0.046 mol, 15 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[K+].[Fe+6]
product | N,N-Diethyl-2-(3,5-di-tert-butyl-4-oxocyclohexa-2,5-dienylidene)acetamide | 3.6 g | C(C)N(C(C=C1C=C(C(C(=C1)C(C)(C)C)=O)C(C)(C)C)=O)CC | C20H31NO2
